US05225418
From ethyl anthranilate: A mixture of sodium hydride (60% dispersion in mineral oil, 24.00 g, 0.6 mole, 3 equiv.), dry DMSO (71.0 ml, 1.0 mole, 5 equiv.), and benzene (130 ml) was heated at 80° C. until gas evolution ceased (1.5 hr), then was cooled in ice/H2O. A solution of ethyl anthranilate (29.6 ml, 0.2 mole, 1 equiv.) in benzene (100 ml) was added at a rate such that the internal temperature did not exceed 25° C., and the mixture was stirred for 0.5 hr. The reaction was poured into ice/H2O and the pH was adjusted to 5-6 with concentrated HCl. EtOAc extraction, drying (MgSO4) and concentration gave a cloudy, orange oil. Silica gel chromatography (3% MeOH/EtOAc, then 5% MeOH/EtOAc) gave 1-(2-aminophenyl)-2-(methylsulfinyl)ethanone (23.43 g, 59%) as a yellow solid. Material prepared in this way was identical to that prepared from isatoic anhydride.

reactant | ethyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OCC | C9H11NO2
reactant | sodium hydride | 0.6 mole, 24.00 g, 3 equiv. | [H-].[Na+]
reactant | DMSO | 1.0 mole, 71.0 ml, 5 equiv. | CS(=O)C | C2H6OS
reactant | ethyl anthranilate | 0.2 mole, 29.6 ml, 1 equiv. | C(C=1C(N)=CC=CC1)(=O)OCC | C9H11NO2
reactant | HCl | Cl | ClH
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 130 ml | C1=CC=CC=C1 | C6H6
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 1-(2-aminophenyl)-2-(methylsulfinyl)ethanone | 23.43 g, 59% | NC1=C(C=CC=C1)C(CS(=O)C)=O | C9H11NO2S
